US06518257B1
(ii) Production of 1-(3′-fluoro[1,1′-biphenyl]-3-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
By the reaction in the same manner as in Example 4-(iii) using 1-(3′-fluoro[1,1′-biphenyl]-3-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol (2.55 g) and pyridine hydrochloride (906 mg), the title compound (1.15 g) was obtained as colorless needle crystals.

reactant | 1-(3′-fluoro[1,1′-biphenyl]-3-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol | 2.55 g | FC=1C=C(C=CC1)C1=CC(=CC=C1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H33FN2O
reactant | pyridine hydrochloride | 906 mg | Cl.N1=CC=CC=C1
product | 1-(3′-fluoro[1,1′-biphenyl]-3-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 1.15 g | FC=1C=C(C=CC1)C1=CC(=CC=C1)C(C(C)C)(O)C=1N=CNC1 | C19H19FN2O
